### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): functors that are 1-hypercover dense

### PR DESCRIPTION
**Pull request by joelriou**
Let `F : C₀ ⥤ C` be a functor equipped with Grothendieck topologies `J₀` and `J`. Assume that `F` is a dense subsite. We introduce a typeclass `IsOneHypercoverDense.{w} F J₀ J` which roughly says that objects in `C` admits a `1`-hypercover consisting of objects in `C₀`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+
+public import Mathlib.CategoryTheory.Sites.DenseSubsite.Basic
+
+/-!
+# Equivalence of categories of sheaves with a dense subsite that is 1-hypercover dense
+
+Let `F : C₀ ⥤ C` be a functor equipped with Grothendieck topologies `J₀` and `J`.
+Assume that `F` is a dense subsite. We introduce a typeclass
+`IsOneHypercoverDense.{w} F J₀ J` which roughly says that objects in `C`
+admits a `1`-hypercover consisting of objects in `C₀`.
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]:
```suggestion
admit a `1`-hypercover consisting of objects in `C₀`.
```

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+/-- A choice of a `OneHypercoverDenseData` structure when `F` is `1`-hypercover dense. -/
+noncomputable def oneHypercoverDenseData (X : C) : F.OneHypercoverDenseData J₀ J X :=
+  (IsOneHypercoverDense.nonempty_oneHypercoverDenseData X).some
+
+lemma isDenseSubsite_of_isOneHypercoverDense [F.IsLocallyFull J] [F.IsLocallyFaithful J]
+    (h : ∀ {X₀ : C₀} {S₀ : Sieve X₀},
+      Sieve.functorPushforward F S₀ ∈ J.sieves (F.obj X₀) ↔ S₀ ∈ J₀.sieves X₀) :
+    IsDenseSubsite J₀ J F where
+  isCoverDense' := ⟨fun X ↦ by
+    refine J.superset_covering ?_ ((F.oneHypercoverDenseData J₀ J X).mem₀)
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean]:
```suggestion
    refine J.superset_covering ?_ (F.oneHypercoverDenseData J₀ J X).mem₀
```

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+    rintro Z Z' g ⟨j, h, fac₁, fac₂⟩ φ
+    exact ⟨j, φ ≫ h, by simpa using φ ≫= fac₁, by simpa using φ ≫= fac₂⟩
+
+end PreOneHypercoverDenseData
+
+/-- Given a functor `F : C₀ ⥤ C`, Grothendieck topologies `J₀` on `C₀` and `J`
+on `C`, an object `S. : C`, this structure roughly contains the data of a `1`-hypercover
+of `S` consisting of objects in `C₀`. -/
+structure OneHypercoverDenseData (S : C) extends PreOneHypercoverDenseData.{w} F S where
+  mem₀ : toPreOneHypercoverDenseData.toPreOneHypercover.sieve₀ ∈ J S
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean:130]: Could you please also add a `OneHypercoverDenseData.toOneHypercover`? (extending `PreOneHypercoverDenseData.toPreOneHypercover`?

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean [hunk 4]
```diff
@@ -0,0 +1,164 @@
...
+  mem₁₀ (i₁ i₂ : I₀) ⦃W₀ : C₀⦄ (p₁ : W₀ ⟶ X i₁) (p₂ : W₀ ⟶ X i₂)
+    (w : F.map p₁ ≫ f i₁ = F.map p₂ ≫ f i₂) :
+    toPreOneHypercoverDenseData.sieve₁₀ p₁ p₂ ∈ J₀ W₀
+
+/-- Given a functor `F : C₀ ⥤ C`, Grothendieck topologies `J₀` on `C₀`, this is
+the property that any object in `C` has a `1`-hypercover consisting of objects in `C₀`. -/
+class IsOneHypercoverDense : Prop where
+  nonempty_oneHypercoverDenseData (X : C) :
+    Nonempty (OneHypercoverDenseData.{w} F J₀ J X)
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean:139]: How is this related to `J` being generated by `1`-hypercovers of the form `OneHypercoverDenseData.toOneHypercover`? Generated in the sense of [OneHypercoverFamily.IsGenerating](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Sites/Hypercover/IsSheaf.html#CategoryTheory.GrothendieckTopology.OneHypercoverFamily.IsGenerating)?

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean:130]: I intend to add this in the next PR on the way towards #34976 (this will be https://github.com/joelriou/mathlib4/blob/68d39ff3f01d0e2bc94f258e306c330655f79b03/Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean#L221)

File: Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/DenseSubsite/OneHypercoverDense.lean:139]: It is much weaker as we need only `1`-hypercover for each object in the target category.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
